US05780470
1-(2-Methylpropionyl)-4-(6-methoxy-indan-1-yl)piperazine
The title compound was prepared by the above procedure using 6-methoxy-1-indanone (3.2 g, 20 mmol), 1-(2-methylpropionyl)piperazine (3.0 g, 20 mmol), titanium(IV) isopropoxide (8 mL, 24 mmol) and sodium borohydride (2.7 g, 67 mmol) to give 2.2 g of product as the fumarate salt.

reactant | 6-methoxy-1-indanone | 20 mmol, 3.2 g | COC1=CC=C2CCC(C2=C1)=O | C10H10O2
reactant | 1-(2-methylpropionyl)piperazine | 20 mmol, 3.0 g | CC(C(=O)N1CCNCC1)C | C8H16N2O
reactant | sodium borohydride | 67 mmol, 2.7 g | [BH4-].[Na+]
catalyst | titanium(IV) isopropoxide | 24 mmol, 8 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
product | 1-(2-Methylpropionyl)-4-(6-methoxy-indan-1-yl)piperazine | CC(C(=O)N1CCN(CC1)C1CCC2=CC=C(C=C12)OC)C | C18H26N2O2
